* E:\Documents\Masters\Circuit_Design\Test.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N001 Common Signal2 opamp Aol=100K GBW=10Meg
R1 N001 Signal 10k
R2 Signal2 N001 10k
V1 Signal Common SINE(0 10m 100)
V2 N002 0 SINE(2 100m 100k)
B1 Common N002 V=(white(2e6*time)/10)
.tran 100ms
.lib opamp.sub
.backanno
.end
